US04103009
2,4-diamino-6-(3-methylthiophenyl)-s-triazine
4.0 g of m-methylthiobenzonitrile, 2.7 g of dicyanodiamide and 2.0 g of caustic potash are dissolved in 20 ml of methyl cellosolve, and the mixture is refluxed for 4 hours. After cooling, the mixture is diluted with water and the separated crystals are recrystallized from dioxane. Melting point: 229°-230° C.; Yield: 3.4 g.

reactant | m-methylthiobenzonitrile | 4.0 g | CSC=1C=C(C#N)C=CC1 | C8H7NS
reactant | dicyanodiamide | 2.7 g | C(#N)N=C(N)N | C2H4N4
reactant | caustic potash | 2.0 g | [OH-].[K+]
solvent | methyl cellosolve | 20 ml | COCCO | C3H8O2
solvent | water | O | H2O
product | 2,4-diamino-6-(3-methylthiophenyl)-s-triazine | NC1=NC(=NC(=N1)N)C1=CC(=CC=C1)SC | C10H11N5S
